US07736624B2
N-(2-aminoethyl)-3-{1-(4-sulfamoylphenyl)-5-p-tolyl-1H-pyrazol-3-yl}propanamide hydrochloride was reacted with N,N-diisopropylethylamine (DIPEA) in dichloromethane for 5 minutes at room temperature to produce N-(2-aminoethyl)-3-{1-(4-sulfamoylphenyl)-5-p-tolyl-1H-pyrazol-3-yl}propanamide which was then reacted with 5-(N-(14-carboxy-3,6,9,12-tetraoxatetradecyl)sulfamoyl)-2-(6-(diethylamino)-3-(diethyliminio)-3H-xanthen-9-yl)benzenesulfonate (produced as disclosed hereinabove with respect to Compound 27iii) in the presence of 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (EDCl), 1-hydroxybenzotriazole (HOBt), and N,N-diisopropylethylamine (DIPEA) in dichloromethane at room temperature to produce Compound 30f as a dark red solid (57% yield).

reactant | N-(2-aminoethyl)-3-{1-(4-sulfamoylphenyl)-5-p-tolyl-1H-pyrazol-3-yl}propanamide hydrochloride | Cl.NCCNC(CCC1=NN(C(=C1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)S(N)(=O)=O)=O
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-aminoethyl)-3-{1-(4-sulfamoylphenyl)-5-p-tolyl-1H-pyrazol-3-yl}propanamide | NCCNC(CCC1=NN(C(=C1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)S(N)(=O)=O)=O | C21H25N5O3S
